US07598255B2
[6-(4-Fluoro-phenyl)-2-isopropyl-pyrimidin-4-ylmethyl]-methyl-amine
Prop-2-ynyl-carbamic acid tert-butyl ester was converted to [6-(4-fluoro-phenyl)-2-isopropyl-pyrimidin-4-ylmethyl]-methyl-carbamic acid tert-butyl ester using methods described in Example 112, Step A. This ester was deprotected according to the methods described in Example 1, Step D, to provide the title compound. MS (ESI): exact mass calcd. for C15H18FN3, 259.15; m/z found, 260.3 [M+H]+. 1H NMR (DMSO-d6): 9.45 (s, 2H); 8.31-8.28 (m, 2H), 8.10 (s, 1H), 7.45-7.41 (m, 2H), 4.35 (t, J=6.0, 2H), 3.26-3.18 (m, 1H), 2.69 (t, J=5.4, 3H), 1.37 (d, J=6.9, 6H).

reactant | Prop-2-ynyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC#C)=O | C8H13NO2
reactant | [6-(4-fluoro-phenyl)-2-isopropyl-pyrimidin-4-ylmethyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CC1=NC(=NC(=C1)C1=CC=C(C=C1)F)C(C)C)=O | C20H26FN3O2
product | [6-(4-Fluoro-phenyl)-2-isopropyl-pyrimidin-4-ylmethyl]-methyl-amine | FC1=CC=C(C=C1)C1=CC(=NC(=N1)C(C)C)CNC | C15H18FN3
